US06329405B1
(67a) N-[1-(3,5-Difluorophenyl)ethyl]-N-[(3-nitrophenyl)-(4-isopropoxyphenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 850 mg of 3-nitrophenyl 4-isopropoxyphenyl ketone, 936 mg of 1-(3,5-difluorophenyl)ethylamine, 1.66 ml of triethylamine, 0.39 ml of titanium tetrachloride, 788 mg of sodium cyanoborohydride and 0.26 ml of acetic acid were reacted, to obtain 1.20 g of the title compound as a yellow oil.

reactant | 3-nitrophenyl 4-isopropoxyphenyl ketone | 850 mg | C(C)(C)OC1=CC=C(C=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H15NO4
reactant | 1-(3,5-difluorophenyl)ethylamine | 936 mg | FC=1C=C(C=C(C1)F)C(C)N | C8H9F2N
reactant | triethylamine | 1.66 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 788 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.39 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.26 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,5-Difluorophenyl)ethyl]-N-[(3-nitrophenyl)-(4-isopropoxyphenyl)methyl]amine | 1.20 g | FC=1C=C(C=C(C1)F)C(C)NC(C1=CC=C(C=C1)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C24H24F2N2O3
